US07763657B2
Step 2: [1-(4-Methanesulfonylamino-3-phenylethynylphenyl)ethyl]carbamic acid tert-butyl ester
[1-(4-Amino-3-phenylethynylphenyl)ethyl]carbamic acid tert-butyl ester (487.1 mg, 1.448 mmol, 1 eq.) and methansulfonic anhydride (302.7 mg, 0.737 mmol, 1.2 eq.) were added in methylene chloride. The reaction mixture was cooled down to 0° C. Pyridine (348.1 μl, 4.344 mmol, 3 eq.) was added into the reaction mixture. The reaction mixture was stirred for 1 hr. The reaction was quenched by adding sat. NaHCO3 solution. The reaction mixture was extracted with methylene chloride. A combined organic layer was washed with 5% HCl, sat. NaHCO3 solution., H2O, and then brine; dried over Na2SO4; then concentrated in vacuo. The residue was purified with column chromatography (n-Hx:EA=5:1) to yield title compound (300 mg, 83%).

reactant | [1-(4-Amino-3-phenylethynylphenyl)ethyl]carbamic acid tert-butyl ester | 1.448 mmol, 487.1 mg, 1 eq. | C(C)(C)(C)OC(NC(C)C1=CC(=C(C=C1)N)C#CC1=CC=CC=C1)=O | C21H24N2O2
reactant | methansulfonic anhydride | 0.737 mmol, 302.7 mg, 1.2 eq. | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | Pyridine | 4.344 mmol, 348.1 μl, 3 eq. | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [1-(4-Methanesulfonylamino-3-phenylethynylphenyl)ethyl]carbamic acid tert-butyl ester | 300 mg, 83% | C(C)(C)(C)OC(NC(C)C1=CC(=C(C=C1)NS(=O)(=O)C)C#CC1=CC=CC=C1)=O | C22H26N2O4S
